### PR TITLE
Erdos 624

### LINKED ISSUE #45: Formalise Erdos Problem 624

### PR DESCRIPTION
**Pull request by smmercuri**
Closes #45

### CODE REVIEW

File: FormalConjectures/ErdosProblems/624.lean [hunk 1]
```diff
@@ -0,0 +1,138 @@
...
+Erdős and Hajnal proved that
+$$
+  \log_2 n\leq H(n) < \log_2 n + (3 + o(1))\log_2\log_2 n.
+$$
+-/
+@[category research solved, AMS 5]
+theorem erdos_624.variants.interval {α : Type*} {H : ℕ → ℕ} {f : PowersetMap α}
+    (hf : f.SurjectiveAbove H) :
+    ∃ (o : ℕ → ℕ) (ho : Tendsto o atTop (𝓝 0)), ∀ (n : ℕ),
+        Real.logb 2 n ≤ H n ∧ H n < Real.logb 2 n + (3 + o n) * Real.logb 2 (Real.logb 2 n) :=
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/624.lean]: I think we should `open Real` for this

File: FormalConjectures/ErdosProblems/624.lean [hunk 2]
```diff
@@ -0,0 +1,138 @@
...
+/--
+Erdős and Hajnal proved that
+$$
+  \log_2 n\leq H(n) < \log_2 n + (3 + o(1))\log_2\log_2 n.
+$$
+-/
+@[category research solved, AMS 5]
+theorem erdos_624.variants.interval {α : Type*} {H : ℕ → ℕ} {f : PowersetMap α}
+    (hf : f.SurjectiveAbove H) :
+    ∃ (o : ℕ → ℕ) (ho : Tendsto o atTop (𝓝 0)), ∀ (n : ℕ),
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/624.lean]: I would prefer to write `(ho : o =o[atTop] (1 : ℕ → ℝ))`.

**Review by callesonne — COMMENTED** [review]
Generally this looks good, but I am not quite sure about these `Powerset` definitions (but maybe I can be convinced). How about introducing a definition `Finset.relPowerset Y X` which provides the powerset of `Y` as a subset of `X`. Then you could use `Set.surjOn` to describe `SurjectiveAbove`?

**Comment by smmercuri** [comment]
> Generally this looks good, but I am not quite sure about these `Powerset` definitions (but maybe I can be convinced). How about introducing a definition `Finset.relPowerset Y X` which provides the powerset of `Y` as a subset of `X`. Then you could use `Set.surjOn` to describe `SurjectiveAbove`?

I'm not sure I follow the suggestion here. Currently, we could use `Set.SurjOn` in the definition of `SurjectiveAbove` as follows
```lean
def PowersetMap.SurjectiveAbove {α : Type*} (H : ℕ → ℕ)
    (f : PowersetMap α) : Prop :=
  ∀ X Y, Y ⊆ X → H #X ≤ #Y → Set.SurjOn (f X) Y.powerset X 
```
but the issue here is that this needs to hold for all `X, Y` related via some specified `H`, maybe this is the rel you mean? 

`PowersetMapFor` could just be replaced by functions `f : X.powerset →X` I suppose! Then `PowersetMap` is just the type `(X : Finset α) →X.powerset → X`. I think I was trying to avoid coercing `Finset` to `Type`, but maybe that's better than new definitions

**Comment by smmercuri** [comment]
Oh wait, I think I see what you mean

**Comment by callesonne** [comment]
> > Generally this looks good, but I am not quite sure about these `Powerset` definitions (but maybe I can be convinced). How about introducing a definition `Finset.relPowerset Y X` which provides the powerset of `Y` as a subset of `X`. Then you could use `Set.surjOn` to describe `SurjectiveAbove`?
> 
> I'm not sure I follow the suggestion here. Currently, we could use `Set.SurjOn` in the definition of `SurjectiveAbove` as follows
> 
> ```lean
> def PowersetMap.SurjectiveAbove {α : Type*} (H : ℕ → ℕ)
>     (f : PowersetMap α) : Prop :=
>   ∀ X Y, Y ⊆ X → H #X ≤ #Y → Set.SurjOn (f X) Y.powerset X 
> ```
> 
> but the issue here is that this needs to hold for all `X, Y` related via some specified `H`, maybe this is the rel you mean?
> 
> `PowersetMapFor` could just be replaced by functions `f : X.powerset →X` I suppose! Then `PowersetMap` is just the type `(X : Finset α) →X.powerset → X`. I think I was trying to avoid coercing `Finset` to `Type`, but maybe that's better than new definitions

By `relPowerset` I meant "relative powerset", maybe the naming was a bit confusing. I think avoiding these new definitions would be good even if it introduces coercions, but I maybe I have not understood how annoying these coercions are to deal with.

**Comment by smmercuri** [comment]
> By `relPowerset` I meant "relative powerset", maybe the naming was a bit confusing. I think avoiding these new definitions would be good even if it introduces coercions, but I maybe I have not understood how annoying these coercions are to deal with.

OK I see what you mean now. I tried this as follows
```lean
theorem Finset.mem_powerset_of_subset {α : Type*} {X Y : Finset α} (h : Y ⊆ X) {S : Finset α} 
    (hS : S ∈ Y.powerset) : S ∈ X.powerset := by 
  simp only [mem_powerset] at hS ⊢ 
  exact hS.trans h

def Finset.toPowersetOfSubset {α : Type*} {X Y : Finset α} (h : Y ⊆ X) : Set X.powerset := 
    { ⟨S, mem_powerset_of_subset h hS⟩ | (S : Finset α) (hS : S ∈ Y.powerset) } 

def Finset.SurjectiveAbove {α : Type*} (H : ℕ → ℕ)
    (f : (X : Finset α) → X.powerset → X) : Prop :=
  ∀ X Y, (h : Y ⊆ X) → H #X ≤ #Y → Set.SurjOn (f X) (toPowersetOfSubset h) .univ 
```
which works, but I think it does make the formalisations in this file a bit less neat because I need to keep using  `toPowersetOfSubset` throughout to coerce `Y.powerset` to `X.powerset`. Maybe I'm missing a trick here! I guess it's a question of style and the trade-off of the new definitions is neater formalisations and less coercions, which I personally prefer

File: FormalConjectures/ErdosProblems/624.lean [hunk 3]
```diff
@@ -0,0 +1,139 @@
...
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Erdős Problem 624
+
+*Reference:* [erdosproblems.com/624](https://www.erdosproblems.com/624)
+-/
+open Filter
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/624.lean]:
```suggestion
-/

open Filter
```

File: FormalConjectures/ErdosProblems/624.lean [hunk 4]
```diff
@@ -0,0 +1,139 @@
...
+
+instance {α : Type*} : FunLike (PowersetMap α) (Finset α) (Finset α → α) where
+  coe := PowersetMap.toFun
+  coe_injective' f₁ _ _ := by cases f₁; congr
+
+/-- `f : PowersetMap` is `SurjectiveAbove` a function `H : ℕ → ℕ` if its
+image on the powerset of `Y` is `X` for any `X Y` such that `H #X ≤ #Y`. -/
+def PowersetMap.SurjectiveAbove {α : Type*} (H : ℕ → ℕ)
+    (f : PowersetMap α) : Prop :=
+  ∀ X Y, Y ⊆ X → H #X ≤ #Y → Set.SurjOn (f X) Y.powerset X
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/624.lean:53]: I am not completely sure this is accurate, but the quantification on the website seems a bit tricky so I might be wrong. Shouldnt the statement be that for every `n` there exists a finite set `X` and a function `H` such that there is a map `f` that is `SurjectiveAbove H f`?

**Comment by callesonne** [comment]
> > By `relPowerset` I meant "relative powerset", maybe the naming was a bit confusing. I think avoiding these new definitions would be good even if it introduces coercions, but I maybe I have not understood how annoying these coercions are to deal with.
> 
> OK I see what you mean now. I tried this as follows
> 
> ```lean
> theorem Finset.mem_powerset_of_subset {α : Type*} {X Y : Finset α} (h : Y ⊆ X) {S : Finset α} 
>     (hS : S ∈ Y.powerset) : S ∈ X.powerset := by 
>   simp only [mem_powerset] at hS ⊢ 
>   exact hS.trans h
> 
> def Finset.toPowersetOfSubset {α : Type*} {X Y : Finset α} (h : Y ⊆ X) : Set X.powerset := 
>     { ⟨S, mem_powerset_of_subset h hS⟩ | (S : Finset α) (hS : S ∈ Y.powerset) } 
> 
> def Finset.SurjectiveAbove {α : Type*} (H : ℕ → ℕ)
>     (f : (X : Finset α) → X.powerset → X) : Prop :=
>   ∀ X Y, (h : Y ⊆ X) → H #X ≤ #Y → Set.SurjOn (f X) (toPowersetOfSubset h) .univ 
> ```
> 
> which works, but I think it does make the formalisations in this file a bit less neat because I need to keep using `toPowersetOfSubset` throughout to coerce `Y.powerset` to `X.powerset`. Maybe I'm missing a trick here! I guess it's a question of style and the trade-off of the new definitions is neater formalisations and less coercions, which I personally prefer

I wouldn't view this as a coercion, but rather a separate definition (the powerset of `Y` as a subset of the powerset of `X`). I just feel like the current definitions will be quite awkward to use, since you have to define the maps for all finite sets.

Also, my suggestion might have been based on a misunderstanding of the quantification in the problem. If I am correct, I think the definition above should just be
```
def Finset.SurjectiveAbove {α : Type*} (H : ℕ → ℕ) (X : Finset α) 
     (f : X.powerset → X) : Prop :=
   ∀ Y, (h : Y ⊆ X) → H #X ≤ #Y → Set.SurjOn (f X) (toPowersetOfSubset h) .univ 
```
and maybe in this case my suggestion makes more sense, as we only need a map `f` for every `n` (and corresponding `X(n)`).

File: FormalConjectures/ErdosProblems/624.lean (hunk 4 above)
Comment (smmercuri) [reply FormalConjectures/ErdosProblems/624.lean:53]: Yeah I found this one tricky too. I think the issue here is that the final part of the statement considers the limit of `H` in `n`. I'm taking that to mean that `H` should satisfy this property for all `n`, and so `f` needs to be some family of maps `X.powerset → X` with this property, hence why it depends additionally on `Finset α`.
